US07358376B2
d) 3-[(Aminocarbonyl)amino]-5-(3-chlorophenyl)-2-thiophenecarboxamide
Prepared by the method of Example 1 from 3-amino-5-(3-chlorophenyl)-2-thiophenecarboxamide and trimethylsilylisocyanate.

reactant | 3-amino-5-(3-chlorophenyl)-2-thiophenecarboxamide | NC1=C(SC(=C1)C1=CC(=CC=C1)Cl)C(=O)N | C11H9ClN2OS
reactant | trimethylsilylisocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
product | 3-[(Aminocarbonyl)amino]-5-(3-chlorophenyl)-2-thiophenecarboxamide | NC(=O)NC1=C(SC(=C1)C1=CC(=CC=C1)Cl)C(=O)N | C12H10ClN3O2S
